US04748186
A mixture of 2,3-dihydro-2,2-dimethylbenzofuran-7-ylmethanol (6.3 grams, 0.035 mole) and concentrated hydrochloric acid (38%) was stirred at ambient temperature for 0.75 hour. The reaction mixture was diluted with water (50 ml) and extracted with diethyl ether. The extract was washed successively with a 10% aqueous solution of sodium hydroxide and a saturated aqueous sodium chloride solution. The dried (sodium sulfate) extract was concentrated under reduced pressure, yielding 7-chloromethyl-2,3-dihydro-2,2-dimethylbenzofuran. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3-dihydro-2,2-dimethylbenzofuran-7-ylmethanol | 0.035 mole, 6.3 grams | CC1(OC2=C(C1)C=CC=C2CO)C | C11H14O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 7-chloromethyl-2,3-dihydro-2,2-dimethylbenzofuran | ClCC1=CC=CC=2CC(OC21)(C)C | C11H13ClO
